US09427475B2
Step B: 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-1-propene
To a solution of allyl magnesium bromide (100 mL, 100 mmol, 1.0 M in ether,) at 0° C. was added dropwise 2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl bromide (4.45 g, 10.82 mmol) in ether (60 mL) over a period of 1 hr. After completion of the addition, the mixture was allowed to warm up and stirred at rt overnight. To the resulting mixture was carefully added water (200 mL) and followed by the addition of acetic acid to dissolve magnesium salts. Th organic layer was separated and concentrated. The residue was treated with acetic anhydride (70 mL, 740 mmol) and pyridine (100 mL). After stirring at rt overnight, the mixture was concentrated and the residue taken up in EtOAc (200 mL) and washed with sat'd NaHCO3 (5×300 mL), dried over MgSO4, filtered and evaporated. The residue was purified by flash chromatography on silica gel (120 g, eluting with 0-100% EtOAc in hexanes) to give the title compound. 1H NMR (CDCl3) δ 2.00 (s, 3H), 2.03 (s, 3H), 2.04 (s, 3H), 2.09 (s, 3H), 2.26-2.37 (m, 2H), 3.51 (m, 1H), 3.65 (m, 1H), 4.10 (dd, J=12.2, 2.2, 1H), 4.24 (dd, J=12.2, 5.0, 1H), 4.93 (t, J=9.4, 1H), 5.07 (m, 2H), 5.09 (s, 1H), 5.17 (t, J=9.4, 1H), 5.83 (m, 1H).

reactant | allyl magnesium bromide | 100 mmol, 1.0 M, 100 mL | C(C=C)[Mg]Br
reactant | 2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl bromide | 10.82 mmol, 4.45 g | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)Br | C14H19BrO9
reactant | water | 200 mL | O | H2O
reactant | acetic anhydride | 740 mmol, 70 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | 60 mL | CCOCC | C4H10O
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-1-propene | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)CC=C | C17H24O9
